US04307072
C. Preparation of 2-(N-Carbobenzyloxyglycylamino)-2-deoxy-D-glucitol
A mixture of 275 ml. of dry tetrahydrofuran and 275 ml. of dry dioxane was cooled to -5° and 12.88 ml. (9.35 g., 0.092 mole) of triethylamine, 8.74 ml. (9.96 g., 0.092 mole) of ethyl chloroformate and 19.23 g. (0.092 mole) of N-carbobenzyloxyglycine were added. The mixture was stirred for 15 min. at -5° and then a cold (0°-5°) solution of 16.65 g. (0.092 mole) of 2-amino-2-deoxy-D-glucitol in 40 ml. of water was added in one portion. The cooling bath was removed and the mixture was allowed to stir at ambient temperature for four hours. The solvent was evaporated in vacuum at 30°-40° and the residue was stirred overnight with 500 ml. of ethanol. Filtration furnished 30 g. of a solid. The solid was recrystallized from 700 ml. of methanol to give 21 g. of product. Tlc shows the product to be pure (silica gel plate--benzene/methyl ketone/88% formic acid 60:25:25--methanolic sulfuric acid development).

reactant | triethylamine | 0.092 mole, 9.35 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.092 mole, 9.96 g | ClC(=O)OCC | C3H5ClO2
reactant | N-carbobenzyloxyglycine | 0.092 mole | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | 2-amino-2-deoxy-D-glucitol | 0.092 mole | N[C@@H](CO)[C@@H](O)[C@H](O)[C@H](O)CO | C6H15NO5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | benzene methyl ketone | C1=CC=CC=C1.CC(=O)C
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(N-Carbobenzyloxyglycylamino)-2-deoxy-D-glucitol | C(=O)(OCC1=CC=CC=C1)NCC(=O)N[C@@H](CO)[C@@H](O)[C@H](O)[C@H](O)CO | C16H24N2O8
